US09428465B2
Step 3. Preparation of 5-(4-fluorophenyl)-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 6, starting from 5-(4-fluorophenyl)-1H-pyrimidine-2,4-dione (0.10 g, 0.48 mmol); 4.5 equivalents of hexyl isocyanate were used herein, splitted into two aliquots (2.2 equiv each) and the reaction mixture was heated under microwave irradiation to 110° C. for 1 hr (2 cycles of 30 min each). The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 84:16) to afford the title compound (0.03 g, 22% over two steps) as white powder. 1H NMR (400 MHz, CDCl3) δ 0.91 (d, J=6.3 Hz, 3H), 1.27-1.42 (m, 6H), 1.58-1.68 (m, 2H), 3.41 (td, J=7.1, 5.6 Hz, 2H), 7.06-7.17 (m, 2H), 7.45-7.63 (m, 2H), 8.35 (s, 1H), 8.55 (s, 1H), 8.93-9.16 (m, 1H). 13C NMR (101 MHz, CDCl3) δ 14.41, 22.33, 26.62, 29.26, 31.38, 41.46, 115.62, 126.97, 130.27, 135.83, 149.57, 150.60, 160.93, 162.81 (d, J=250.5 Hz). MS (ESI) m/z: 207 [M-H]+.

reactant | 5-(4-fluorophenyl)-1H-pyrimidine-2,4-dione | 0.48 mmol, 0.10 g | FC1=CC=C(C=C1)C=1C(NC(NC1)=O)=O | C10H7FN2O2
reactant | hexyl isocyanate | 4.5 equivalents | C(CCCCC)N=C=O | C7H13NO
product | 5-(4-fluorophenyl)-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.03 g, 22% | FC1=CC=C(C=C1)C=1C(NC(N(C1)C(=O)NCCCCCC)=O)=O | C17H20FN3O3
